US03962255
Using the same procedure as described in Example 4, 17 parts of 2,2,7,7-tetramethyl-1,4-diazacycloheptan-5-one and 32 parts of n-octadecyl isocyanate were reacted together and afforded 4-n-octadecylcarbamoyl-2,2,7,7-tetramethyl-1,4-diazacycloheptan-5-one as a colourless solid which was recrystallised from petroleum ether (of boiling range 60° to 80°C) and had a melting point of 56.5°-58°C. This material gave the following elemental analysis by weight:

reactant | 2,2,7,7-tetramethyl-1,4-diazacycloheptan-5-one | CC1(NC(CC(NC1)=O)(C)C)C | C9H18N2O
reactant | n-octadecyl isocyanate | C(CCCCCCCCCCCCCCCCC)N=C=O | C19H37NO
product | 4-n-octadecylcarbamoyl-2,2,7,7-tetramethyl-1,4-diazacycloheptan-5-one | C(CCCCCCCCCCCCCCCCC)NC(=O)N1CC(NC(CC1=O)(C)C)(C)C | C28H55N3O2
